US04118461
1-[β-(2,4-dichlorophenyl)hexyl]4,5-dichloroimidazole
To 100 ml of methanol is added 1.7g (0.0735 moles) of sodium. When the sodium dissolves, 10g (0.0735 moles) of 4,5-dichlorimidazole is added. The mixture is stirred until a solution forms, and then the methanol is stripped off. The wet residue is then added to 50 ml of dimethyl formamide and the solution heated up to 125° to remove the remaining methanol and water. The solution is cooled to less than 100° and 2.5g (0.0735 moles) of 2-(2,4-dichlorophenyl)hexyl methane sulfonate is added. The reaction is heated up to 130° for 2 hours and then cooled. The reaction is poured into water and the organic material extracted three times with 200 ml of benzene. The combined extracts are washed twice with 50 ml of water, dried over anhydrous magnesium sulfate and concentrated to obtain 15.8 g of the crude product. The residue is dissolved in ether, and treated with dry hydrogen chloride gas. The ether solution is decanted from the oil which forms and the oil is triturated twice with 150 ml of ether. The oil is then treated with 10% sodium hyroxide, and the product extracted out twice with 200 ml of ether. The ether solution is dried and concentrated to give 12.6 g (47%) of the oil product.

reactant | sodium | 0.0735 moles, 1.7g | [Na] | Na
reactant | 4,5-dichlorimidazole | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | 2-(2,4-dichlorophenyl)hexyl methane sulfonate | 0.0735 moles, 2.5g | CS(=O)(=O)OCC(CCCC)C1=C(C=C(C=C1)Cl)Cl | C13H18Cl2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 1-[β-(2,4-dichlorophenyl)hexyl]4,5-dichloroimidazole | 12.6 g, 47% | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC(=C1Cl)Cl)CCCC | C15H16Cl4N2
